2104-05-11 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2104-5-11**] 02:07 AM
 BLOOD CULTURED - At [**2104-5-11**] 02:07 AM
 SPUTUM CULTURE - At [**2104-5-11**] 06:19 AM
   - Started tube feeds per nutrition recs
   - SW consult ordered for pt/family coping, but not yet done
   - Dilt dose decreased to 60 mg QID to maintain SBPs > 90
   - Patient in NSR/sinus tach throughout day
   - Temp to 100.6 in PM so sent blood, urine cx (UA not consistent with
   UTI)
   - Cuff leak noted at ~6:00 am, fixed by nurse. [**First Name (Titles) 8024**] [**Last Name (Titles) 11753**]
   secretions also noted with drop in O2 sats from high 90s to high 80s.
   Efforts at NTS with modest improvement. Increased FiO2 to 50%, will f/u
   CXR. Sent sputum cx. Started vanc/zosyn for ? PNA.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2104-5-10**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 84 (74 - 90) bpm
   BP: 99/52(64) {86/48(58) - 103/69(76)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,048 mL
                                                                    709 mL
   PO:
             TF:
                                                                     80 mL
                                                                    172 mL
   IVF:
                                                                  2,908 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    150 mL
   Urine:
                                                                    815 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,233 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 27 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 90%
   ABG: ///25/
   Ve: 7.4 L/min
   Physical Examination
   General: Intubated, sedated but easily arousable and follows commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse wheezes LEFT > RIGHT, no rales or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   372 K/uL
   10.9 g/dL
   114 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   137 mEq/L
   32.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2104-5-10**]  03:26 AM
                             [**2104-5-11**]  12:36 AM
   WBC
   16.4
   9.8
   Hct
   33.8
   32.9
   Plt
   387
   372
   Cr
   0.4
   0.4
   Glucose
   143
   114
   Other labs: PT / PTT / INR:12.6/24.2/1.1, Differential-Neuts:88.8 %,
   Lymph:8.5 %, Mono:2.2 %, Eos:0.3 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   UA ([**5-11**]) : neg LE, neg nitrite, 0-2 WBC, none bact, < 1 epi, mod blood,
   25 protein
   UCX ([**5-11**]):
   UCX ([**5-9**]) mixed flora c/w contamination
   Blood CX ([**5-11**]):
   Assessment and Plan
   51 year old woman with past medical history significant only for
   locally advanced melanoma s/p wide marginal excision in [**2100**],
   presenting with dysphagia, worsening dyspnea, and atrial flutter found
   to have large mediastinal mass and pulmonary nodules and now intubated
   s/p bronchoscopy revealing external bronchial compression.
   .
   # Mediastinal Mass: Dyspnea and weight loss likely related to this
   tumor. Unclear primary, but may be lymphoma, melanoma or lung primary.
   Given LAD, there is concern for metastatic disease. Likely will not
   tolerate extubation until definitive therapy is achieved in regards to
   mass management.  Episode overnight with increased sputum/secretions
   and fever suggestive of possible PNA (post-obstructive likely given
   anatomy). Now PEEP increased to 10, FiO2 increased to 50%. Most likely
   will go to OR on Tuesday for bronchial stenting. Will also try to
   re-position ETT as > 5 cm above carina.
   - Continue AC ventilation with Sedation
   - F/u Nutrition c/s for TF recs
   - F/u Path report
   - Appreciate IP recs
   - Await Hem/Onc recs (will see patient on Monday)
   - Rad onc c/s pending path
   - No Beta agonists as unlikey to reverse fixed obstruction, and may
   exacerbate Aflutter
   - Echocardiogram for Monday
   - Continue vanco/zosyn for now
   - F/U sputum cx, blood cx
   - F/U final read CXR
   .
   # Atrial Flutter: Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence. Ruled out by enzymes. Remains in NSR at this time.
   - No anticoagulation or aspirin given recent intervention
   - Rate control with Diltiazem (continue on 60 mg QID)
   .
   #Fever:  No definitive source but in a ventilated patient with
   increasing [**Year (4 digits) 11753**] secretions and drop in O2 sats could be concerning for
   pulmonary infection.  UA not suggestive of urinary tract infection
   -f/u sputum cx
   -f/u blood cx
   -continue vancomycin and zosyn for possible VAP
   # Asthma: Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoid bronchodilators as they will exacerbate atrial
   flutter.
   .
   # FEN: IVF with D5
 NS at 75 cc/hr, replete electrolytes, TFs after
   Nutrion c/s
   # Prophylaxis: Pneumoboots, H2 blocker, SQ heparin
   # Access: peripherals x 3
   # Communication: Patient
   # Code:  Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement; ? [**Hospital Unit Name 10**] transfer
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-10**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2104-5-9**] 05:00 PM
   18 Gauge - [**2104-5-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-12 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2104-5-12**] 12:00 AM
   [**2104-5-11**]:
   - sputum growing gram positive cocci in pairs/clusters. CX pending
   - temp to 102 overnight, pan-cx within past 24hrs
   - still with thick yellow secretions but more scant on humidified air
   - Per IP - plan for metal stent left mainstem bronchus on Tuesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-11**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-5-12**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-11**] 08:00 AM
   Fentanyl - [**2104-5-11**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2104-5-11**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-12**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.3
   HR: 77 (72 - 96) bpm
   BP: 98/54(63) {88/44(56) - 117/67(76)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.7 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  4,046 mL
                                                                  1,123 mL
   PO:
             TF:
                                                                    874 mL
                                                                    377 mL
   IVF:
                                                                  3,032 mL
                                                                    696 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    270 mL
   Urine:
                                                                    765 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,281 mL
                                                                    853 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/43/82/27/3
   Ve: 9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General: Intubated, sedated but easily arousable and follows commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse wheezes
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   254 K/uL
   10.2 g/dL
   147 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   9 mg/dL
   103 mEq/L
   138 mEq/L
   31.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2104-5-10**]  03:26 AM
                             [**2104-5-11**]  12:36 AM
                             [**2104-5-11**]  10:10 AM
                             [**2104-5-12**]  03:34 AM
   WBC
   16.4
   9.8
   10.1
   Hct
   33.8
   32.9
   31.7
   Plt
   387
   372
   254
   Cr
   0.4
   0.4
   0.4
   TCO2
   29
   Glucose
   143
   114
   147
   Other labs: PT / PTT / INR:14.1/29.1/1.2,
   Differential-Neuts:83.3 %, Lymph:10.9 %, Mono:4.4 %, Eos:1.3 %,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Microbiology:
   Blood cx ([**5-11**]):
   Urine cx ([**5-11**]):
   Sputum:   >25PMN and <10 epithelial cells.    gram positive cocci in
   pairs and clusters.  Culture pending
   Assessment and Plan
   51 year old woman with past medical history significant only for
   locally advanced melanoma s/p wide marginal excision in [**2100**],
   presenting with dysphagia, worsening dyspnea found to have large
   mediastinal mass and pulmonary nodules and now intubated s/p
   bronchoscopy revealing external bronchial compression with hospital
   course complicated by Atrial flutter.
   .
   # Respiratory
   - keep intubated pending IP intervention,? temporary stent placement
   - consider PSV with plan to extubate in next day.
   - humidified air, suction, treatment of pneumonia
   - stop maintenance fluids as patient TBB positive; consider lasix if
   still volume up
   - lighten sedation
   - check ABG today
   # Mediastinal Mass: Dyspnea and weight loss likely related to this
   tumor. Unclear primary, but may be lymphoma, melanoma or lung primary.
   Given LAD, there is concern for metastatic disease. Likely will not
   tolerate extubation until definitive therapy is achieved in regards to
   mass management.  Episode overnight with increased sputum/secretions
   and fever suggestive of possible PNA (post-obstructive likely given
   anatomy). Now PEEP increased to 10, FiO2 increased to 50%. Most likely
   will go to OR on Tuesday for bronchial stenting. Will also try to
   re-position ETT as > 5 cm above carina.
   - Continue AC ventilation with Sedation
   - F/u Nutrition c/s for TF recs
   - F/u Path report
   - Appreciate IP recs
   - Await Hem/Onc recs (will see patient on Monday)
   - Rad onc c/s pending path
   - No Beta agonists as unlikey to reverse fixed obstruction, and may
   exacerbate Aflutter
   - Echocardiogram for Monday
   - Continue vanco/zosyn for now
   - F/U sputum cx, blood cx
   - F/U final read CXR
   .
   # Atrial Flutter: Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence. Ruled out by enzymes. Remains in NSR at this time.
   - No anticoagulation or aspirin given recent intervention
   - Rate control with Diltiazem , decrease dosage to 30 mg QID.
   # Pneumonia
 patient appears to have LLL > RLL infiltrate and has been
   persistently febrile to 102 with leukocytosis.
   - f/u culture data
   - continue vancomycin/zosyn
   - check vancomycin trough
   .
   #Fever:  No definitive source but in a ventilated patient with
   increasing thick secretions and drop in O2 sats could be concerning for
   pulmonary infection.  UA not suggestive of urinary tract infection
   -f/u sputum cx
   -f/u blood cx
   -continue vancomycin and zosyn for possible VAP (day 2)
   # Asthma: Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoid bronchodilators as they will exacerbate atrial
   flutter.
   .
   # FEN: IVF boluses prn, replete electrolytes, TFs after Nutrion c/s
   # Prophylaxis:  H2 blocker, SQ heparin
   # Access: peripherals x 3
   # Communication: Patient
   # Code:  Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-11**] 10:59 PM 55 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2104-5-9**] 05:00 PM
   18 Gauge - [**2104-5-9**] 05:00 PM
   20 Gauge - [**2104-5-11**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-14 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2104-5-13**] 08:00 PM
   - EBUS positive for malignant cells c/w malignant melanoma
   - sputum growing moderate amount moraxella catarhalis
   - npo at midnight for stent in AM
   - Vanco continued for today (will require ID approval in AM if
   continuing)
   - Will need PICC tomorrow if afebrile x 48 H
   - Wrote holding parameters for diltiazem at SBP of 100
   - 3:30 AM: 500 cc bolus of NS for low UOP and hypotension
   - Onc recs: stage by CT torso with and without contrast, MRI of brain.
   No role for chemo.
   - Rad onc recs: Will F/U after stenting (will likely need radiation)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2104-5-12**] 08:00 AM
   Levofloxacin - [**2104-5-13**] 04:00 PM
   Vancomycin - [**2104-5-14**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-5-13**] 10:57 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2104-5-14**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 68 (67 - 136) bpm
   BP: 94/68(74) {83/40(49) - 117/68(77)} mmHg
   RR: 12 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  3,267 mL
                                                                  1,315 mL
   PO:
             TF:
                                                                    503 mL
   IVF:
                                                                  2,524 mL
                                                                  1,255 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    310 mL
   Urine:
                                                                  1,225 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,042 mL
                                                                  1,005 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 26 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.49/43/169/27/9
   Ve: 6.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: Intubated
   HEENT: NCAT, sclerae anicteric, MMM
   Pulm: Diffuse inspiratory rhonchi and diffuse expiratory wheezes
   bilaterally (R > L)
   CVS: RRR with normal s1 and s2. No m/g/r.
   Abd: Soft/NT/ND
   Ext: No c/c/e
   Labs / Radiology
   280 K/uL
   9.0 g/dL
   178 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   101 mEq/L
   136 mEq/L
   28.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2104-5-10**]  03:26 AM
                             [**2104-5-11**]  12:36 AM
                             [**2104-5-11**]  10:10 AM
                             [**2104-5-12**]  03:34 AM
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
   WBC
   16.4
   9.8
   10.1
   9.5
   9.0
   Hct
   33.8
   32.9
   31.7
   28.6
   28.5
   Plt
   387
   372
   254
   290
   280
   Cr
   0.4
   0.4
   0.4
   0.5
   0.6
   TCO2
   29
   31
   34
   Glucose
   143
   114
   147
   132
   178
   Other labs: PT / PTT / INR:13.9/29.9/1.2, Differential-Neuts:86.6 %,
   Lymph:7.0 %, Mono:4.6 %, Eos:1.5 %, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.6 mg/dL
   Repeat CT chest done:
   1. Extremely large retrotracheal mediastinal adenopathy, obstructing
   the left main and lower lobe bronchi, resulting in left lower lobe
   collapse.
   2. Large pulmonary metastases in the right upper and middle lobes.
   3. Moderate bilateral pleural effusions.
   Assessment and Plan
   51 year old woman with past medical history significant only for
   locally advanced melanoma s/p wide marginal excision in [**2100**],
   presenting with dysphagia, worsening dyspnea found to have large
   mediastinal mass and pulmonary nodules and now intubated s/p
   bronchoscopy revealing external bronchial compression with hospital
   course complicated by Atrial flutter.
   .
   # Respiratory
   - keep intubated pending IP intervention
 taken off of OR list for
   today; will F/U IP recs
   - consider PSV with plan to extubate when stable after IP intervention.
   - humidified air, suction, treatment of pneumonia
   - stop maintenance fluids as patient TBB positive; consider lasix if
   still volume up
   - lighten sedation
   - check ABG today
   - Plan for OR for placement of stent to left main bronchus today
   # Mediastinal Mass: Dyspnea and weight loss likely related to this
   tumor. Unclear primary, but may be lymphoma, melanoma or lung primary.
   Given LAD, there is concern for metastatic disease. Likely will not
   tolerate extubation until definitive therapy is achieved in regards to
   mass management.  Episode overnight with increased sputum/secretions
   and fever suggestive of possible PNA (post-obstructive likely given
   anatomy). Now PEEP increased to 10, FiO2 increased to 50%. Most likely
   will go to OR on Tuesday for bronchial stenting. Will also try to
   re-position ETT as > 5 cm above carina.
   - Continue AC ventilation with sedation
   - F/u Nutrition c/s for TF recs
   - Path report consistent with metastatic malignant melanoma
   - Appreciate IP recs
   - F/U Hem/Onc recs
   - Rad onc c/s
 currently obtaining CT abd/pelvis (? Need chest as
   well) and MR brain for staging. Will have rad onc evaluate patient
   today.
   - No Beta agonists as unlikey to reverse fixed obstruction, and may
   exacerbate Aflutter
   - Continue vanco/levofloxacin for now
   - F/U sputum cx sensitivities, blood cx
   - F/U final read CXR
   - likely transfer to [**Hospital Unit Name 10**] after IP intervention (and when clinically
   stable after intervention)
   .
   # Atrial Flutter: Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence. Ruled out by enzymes. Remains in NSR at this time.
   - No anticoagulation or aspirin given recent intervention
   - Rate control with Diltiazem , maintain dosage to 30 mg QID and
   monitor for hypotension (increase holding parameter to 110)
   # Pneumonia
 patient appears to have LLL > RLL infiltrate and has been
   persistently febrile with leukocytosis. Xray today concerning for
   increase in infiltrate versus left pleural effusion.
   - f/u culture data
   - continue vancomycin/levofloxacin
   - check vancomycin trough and dose appropriately
   .
   #Fever:  Concerning for pulmonary infection with sputum culture
   currently growing Moraxella in conjunction with thick secretions and
   drop in O2 sats.  UA not suggestive of urinary tract infection
   Moraxella in sputum.
   -f/u blood cx
   -continue vancomycin and levaquin for possible VAP (day 4)
   # Asthma: Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoid bronchodilators as they will exacerbate atrial
   flutter.
   .
   # FEN: IVF boluses prn, replete electrolytes, TFs after Nutrion c/s
   # Prophylaxis:  H2 blocker, SQ heparin
   # Access: peripherals x 3, will need PICC when afebrile
   # Communication: Patient
   # Code:  Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement  (candidate for
   transfer to [**Hospital Unit Name 10**] once IP
s role is clarified)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2104-5-12**] 09:32 AM
   18 Gauge - [**2104-5-13**] 05:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-15 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2104-5-14**] 11:45 AM
   MRI of Head with and without contrast
 MULTI LUMEN - START [**2104-5-15**] 03:05 AM
   - Rad onc ([**Doctor First Name 11807**] pager: [**Numeric Identifier 11808**]) = Plan to be brought over for
   simulation and likely treatment tomorrow at 8AM.
   - Was switched from Levo --> Unasyn for better anaerobic coverage as
   well as effective coverage of Moraxella.  Continuing Vanc.
   - got MRI head per Onc recs
   - bilateral upper extremity edema, L > R.  Per IV team, PIVs on L arm
   unusable.  Placed urgent RIJ CVL.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2104-5-12**] 08:00 AM
   Vancomycin - [**2104-5-14**] 04:30 PM
   Levofloxacin - [**2104-5-14**] 04:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-14**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-14**] 03:40 PM
   Heparin Sodium (Prophylaxis) - [**2104-5-14**] 10:00 PM
   Fentanyl - [**2104-5-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-15**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 80 (68 - 93) bpm
   BP: 105/61(72) {91/46(58) - 129/72(96)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  4,451 mL
                                                                     79 mL
   PO:
             TF:
   IVF:
                                                                  2,831 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,794 mL
                                                                    295 mL
   Urine:
                                                                  1,494 mL
                                                                    295 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,657 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 500) mL
   Vt (Spontaneous): 510 (510 - 510) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/52/102/30/7
   Ve: 6.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   8.3 g/dL
   96 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   7 mg/dL
   95 mEq/L
   134 mEq/L
   25.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2104-5-10**]  03:26 AM
                             [**2104-5-11**]  12:36 AM
                             [**2104-5-11**]  10:10 AM
                             [**2104-5-12**]  03:34 AM
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
   WBC
   16.4
   9.8
   10.1
   9.5
   9.0
   6.4
   Hct
   33.8
   32.9
   31.7
   28.6
   28.5
   25.7
   Plt
   387
   372
   254
   290
   280
   308
   Cr
   0.4
   0.4
   0.4
   0.5
   0.6
   0.5
   TCO2
   29
   31
   34
   35
   Glucose
   143
   114
   147
   132
   178
   114
   96
   Other labs: PT / PTT / INR:14.6/47.0/1.3, Differential-Neuts:86.6 %,
   Lymph:7.0 %, Mono:4.6 %, Eos:1.5 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT this AM
   - f/u CT torso for full staging
   - f/u Rad Onc recs
   - f/u IP recs (if any)
   - continue invasive ventilation
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - gentle diuresis with lasix
   .
   # respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D5/8 (had received 4 days of levofloxacin coverage)
   - XRT per above
   - f/u cultures
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - PM HCT
   - hemolysis labs
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis: HSQ, Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-5-13**] 05:50 PM
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-16 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per IP - no stent
   - XRT:She will receive 10 fractions at a dose of 300 cGy per fraction
   for a total dose of 3000 cGy. next treatment [**5-16**]
   - lasix 10mg IV x2 to maintain negative I/O
   - hct check 3pm: stable.
   - on dexameth 6mg IV q6, started ISS, going start chemo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-14**] 04:30 PM
   Levofloxacin - [**2104-5-14**] 04:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-16**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2104-5-15**] 08:23 PM
   Midazolam (Versed) - [**2104-5-15**] 11:45 PM
   Fentanyl - [**2104-5-16**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 76 (63 - 93) bpm
   BP: 94/50(60) {87/41(53) - 107/62(67)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,012 mL
                                                                    650 mL
   PO:
             TF:
                                                                    314 mL
                                                                    355 mL
   IVF:
                                                                    588 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    265 mL
   Urine:
                                                                  2,430 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,418 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, Unstable Airway
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 97%
   ABG: ///33/
   Ve: 6.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   365 K/uL
   9.2 g/dL
   175 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.5 mEq/L
   12 mg/dL
   95 mEq/L
   137 mEq/L
   28.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2104-5-11**]  10:10 AM
                             [**2104-5-12**]  03:34 AM
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
   WBC
   10.1
   9.5
   9.0
   6.4
   6.2
   Hct
   31.7
   28.6
   28.5
   25.7
   26.5
   28.6
   Plt
   [**Telephone/Fax (3) 11828**]08
   365
   Cr
   0.4
   0.5
   0.6
   0.5
   0.5
   TCO2
   29
   31
   34
   35
   Glucose
   147
   132
   178
   114
   96
   175
   Other labs: PT / PTT / INR:14.8/27.9/1.3, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT this AM
   - chemo initiation today
   - f/u CT torso for full staging
   - f/u Rad Onc recs
   - f/u IP recs (if any)
   - continue invasive ventilation
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - gentle diuresis with lasix, goal negative 500 cc
   .
   # respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D6/8 (had received 4 days of levofloxacin coverage)
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - PM HCT
   - hemolysis labs
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90
   - place A-line for BP monitoring, ABG
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis: HSQ, Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 INEFFECTIVE COPING
 KNOWLEDGE DEFICIT
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-17 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2104-5-16**] 09:00 AM
   - I/O goal - Even to -500
   - Need a-line: could not place --> plan to place when extubation an
   issue
   - Lowered holding parameter for Dlit to 90 SBP
   - Unasyn - d6/8
   - ONC: chemo + rad to get off vent
   - Decadron course is 4-6 days, today is D2
   - Became bradycardic (50's) with hypotension (80's) while sleeping.
   Held MN dilt dose, gave 500 cc (no change in pressure)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-14**] 04:30 PM
   Levofloxacin - [**2104-5-14**] 04:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-17**] 05:35 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-17**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-17**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 93 (56 - 126) bpm
   BP: 128/74(86) {79/43(51) - 145/74(91)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  3,006 mL
                                                                    551 mL
   PO:
             TF:
                                                                  1,117 mL
                                                                    330 mL
   IVF:
                                                                  1,834 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    360 mL
   Urine:
                                                                    955 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,051 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   520 K/uL
   9.5 g/dL
   173 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   19 mg/dL
   100 mEq/L
   139 mEq/L
   30.3 %
   15.2 K/uL
        [image002.jpg]
                             [**2104-5-12**]  03:34 AM
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
   WBC
   10.1
   9.5
   9.0
   6.4
   6.2
   15.2
   Hct
   31.7
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   Plt
   [**Telephone/Fax (3) 11846**]
   Cr
   0.4
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   31
   34
   35
   Glucose
   147
   132
   178
   114
   96
   175
   173
   Other labs: PT / PTT / INR:14.8/27.9/1.3, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT
   - chemo initiated [**5-16**]
   - f/u CT torso for full staging
   - f/u Rad Onc recs
   - f/u IP recs (if any)
   - continue invasive ventilation
   - heme/onc, cutaneous malign team following
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - gentle diuresis with lasix, goal negative 500 cc
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D7/8 (had received 4 days of levofloxacin coverage)
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   - switch to pressure support
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - PM HCT
   - hemolysis labs
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90
   - place A-line for BP monitoring, ABG
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis: HSQ, Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-17 10:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Indicates to be uncomfortable overall.  NO specific focal pain.
   Chemotherapy
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2104-5-14**] 04:30 PM
   Levofloxacin - [**2104-5-14**] 04:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-17**] 05:35 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-17**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-17**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 70 (56 - 126) bpm
   BP: 101/60(69) {79/43(51) - 145/74(91)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  3,006 mL
                                                                    719 mL
   PO:
             TF:
                                                                  1,117 mL
                                                                    330 mL
   IVF:
                                                                  1,834 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    450 mL
   Urine:
                                                                    955 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,051 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic,
   Intermittently anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   520 K/uL
   173 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   19 mg/dL
   100 mEq/L
   139 mEq/L
   30.3 %
   15.2 K/uL
        [image002.jpg]
                             [**2104-5-12**]  03:34 AM
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
   WBC
   10.1
   9.5
   9.0
   6.4
   6.2
   15.2
   Hct
   31.7
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   Plt
   [**Telephone/Fax (3) 11846**]
   Cr
   0.4
   0.5
   0.6
   0.5
   0.5
   0.5
   TCO2
   31
   34
   35
   Glucose
   147
   132
   178
   114
   96
   175
   173
   Other labs: PT / PTT / INR:14.8/27.9/1.3, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.
   WBC ELEVATION -- attributed to addition of steroids (Decadron)
   # metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT this AM
   - chemo initiation today
   - f/u CT torso for full staging
   - f/u Rad Onc recs
   - f/u IP recs (if any)
   - continue invasive ventilation
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - gentle diuresis with lasix, goal negative 500 cc
   .
   # respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D6/8 (had received 4 days of levofloxacin coverage)
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - PM HCT
   - hemolysis labs
   .
   A-FLUTTER --  attributed to pericardial invovlement by tumor.   at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90
   - place A-line for BP monitoring, ABG
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis: HSQ, Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-05-18 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2104-5-17**] 09:42 AM
   - Switched to pressure support briefly, became apneic while asleep so
   put back on AC.
   - downtitrated dilt to 30 mg po bid due to persistent bradycardia (high
   40s)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-18**] 06:17 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-18**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 74 (48 - 93) bpm
   BP: 120/66(77) {88/48(58) - 120/79(83)} mmHg
   RR: 14 (14 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,374 mL
                                                                    853 mL
   PO:
             TF:
                                                                  1,231 mL
                                                                    413 mL
   IVF:
                                                                    893 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    380 mL
   Urine:
                                                                  1,180 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,194 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   468 K/uL
   9.4 g/dL
   162 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
   WBC
   9.5
   9.0
   6.4
   6.2
   15.2
   11.9
   Hct
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   Plt
   290
   280
   308
   365
   520
   468
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   34
   35
   Glucose
   132
   178
   114
   96
   175
   173
   162
   Other labs: PT / PTT / INR:14.8/27.9/1.3, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, next dose Monday [**5-19**]
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D8/8 (had received 4 days of levofloxacin coverage)
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   - switch to pressure support
   - may consider repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - trend HCT
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - A-line unsuccessful
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - check CVP and consider diuresis to keep even today.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-18**] 05:25 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-18 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on PO Diltiazem, now on lower dose.  Experienced transient
   episodes of rapid A-fib.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-18**] 06:17 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-18**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 75 (48 - 130) bpm
   BP: 137/77(91) {88/48(58) - 137/79(91)} mmHg
   RR: 14 (8 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,350 mL
                                                                  1,213 mL
   PO:
             TF:
                                                                  1,231 mL
                                                                    599 mL
   IVF:
                                                                    868 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    710 mL
   Urine:
                                                                  1,180 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,170 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   LLL opens near end inspiration, with audible air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   468 K/uL
   162 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   143 mEq/L
   28.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2104-5-12**]  03:16 PM
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
   WBC
   9.5
   9.0
   6.4
   6.2
   15.2
   11.9
   Hct
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   Plt
   290
   280
   308
   365
   520
   468
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   34
   35
   Glucose
   132
   178
   114
   96
   175
   173
   162
   Other labs: PT / PTT / INR:14.8/27.9/1.3, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Continue XRT
   and chemotherapy with hope for reducing mediastinal tumor size,
   allowing reduction of extrinsic airways obstruction and hopefuly work
   towards extubate.  Monitor CXR and repeat CT scan when XRT complete.
   WBC ELEVATION -- attributed to addition of steroids (Decadron).
   Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
 Dilutional, bleed, ACD.  Continue serial hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Adjust diltiazem dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-18**] 05:25 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-05-19 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2104-5-19**] 03:01 AM
   - continued to be on dilt, now 15mg PO QID.
   - dex d/c'd in the PM
   - CVP was noted to be 8, no lasix
   - Miconazole Powder for groin rash
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-18**] 08:52 PM
   Midazolam (Versed) - [**2104-5-19**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-19**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 87 (52 - 131) bpm
   BP: 143/70(87) {97/50(61) - 145/77(92)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.3 kg (admission): 60.1 kg
   Height: 60 Inch
    CVP: 5 (5 - 14)mmHg
   Total In:
                                                                  2,986 mL
                                                                    523 mL
   PO:
   TF:
                                                                  1,709 mL
                                                                    275 mL
   IVF:
                                                                    842 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    480 mL
   Urine:
                                                                  1,355 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,631 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   487 K/uL
   9.4 g/dL
   160 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   24 mg/dL
   105 mEq/L
   141 mEq/L
   29.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
   WBC
   9.5
   9.0
   6.4
   6.2
   15.2
   11.9
   12.1
   Hct
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   Plt
   290
   280
   308
   365
   520
   468
   487
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   35
   Glucose
   132
   178
   114
   96
   175
   173
   162
   160
   Other labs: PT / PTT / INR:12.9/21.9/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.0 mg/dL, Mg++:2.4
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, 4th dose Monday [**5-19**]
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella.
   - treat with Unasyn D8/8 (had received 4 days of levofloxacin coverage)
 dc today
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   - switch to pressure support
   - may consider repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 falling from 33.8
28.6
25.7. Dilutional v
   hemolysis v bleed
   - trend HCT
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - A-line unsuccessful
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - check CVP and consider diuresis to keep even today.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-19 11:52:00 Physician Attending Progress Note
Chief Complaint: REspiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 11:33 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-18**] 08:52 PM
   Midazolam (Versed) - [**2104-5-19**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-19**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 80 (52 - 131) bpm
   BP: 129/68(82) {97/50(61) - 145/75(92)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.3 kg (admission): 60.1 kg
   Height: 60 Inch
   CVP: 5 (5 - 14)mmHg
   Total In:
                                                                  2,986 mL
                                                                    808 mL
   PO:
   TF:
                                                                  1,709 mL
                                                                    336 mL
   IVF:
                                                                    842 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  1,355 mL
                                                                    720 mL
   Urine:
                                                                  1,355 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,631 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Improved aeration of lung lung (consistently)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   487 K/uL
   160 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   24 mg/dL
   105 mEq/L
   141 mEq/L
   29.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2104-5-13**]  03:00 AM
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
   WBC
   9.5
   9.0
   6.4
   6.2
   15.2
   11.9
   12.1
   Hct
   28.6
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   Plt
   290
   280
   308
   365
   520
   468
   487
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   35
   Glucose
   132
   178
   114
   96
   175
   173
   162
   160
   Other labs: PT / PTT / INR:12.9/21.9/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.0 mg/dL, Mg++:2.4
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Continue XRT
   and chemotherapy with hope for reducing mediastinal tumor size,
   allowing reduction of extrinsic airways obstruction and hopefuly work
   towards extubate.  Monitor CXR and repeat CT scan when XRT complete.
   WBC ELEVATION -- attributed to addition of steroids (Decadron).
   Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
 Dilutional, bleed, ACD.  Continue serial hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-19**] 10:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-05-20 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2104-5-19**] 09:00 AM
   - More XRT
   - D/C'd Unasyn (completed course)
   - PEEP decreased from 10 --> 8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 11:33 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-5-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 79 (59 - 93) bpm
   BP: 116/60(73) {95/46(58) - 130/71(86)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.3 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,824 mL
                                                                    581 mL
   PO:
             TF:
                                                                  1,018 mL
                                                                    275 mL
   IVF:
                                                                    547 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    495 mL
   Urine:
                                                                  1,395 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    429 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   527 K/uL
   9.6 g/dL
   136 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   140 mEq/L
   30.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
   WBC
   9.0
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   Hct
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   Plt
   280
   308
   365
   [**Telephone/Fax (3) 11885**]
   527
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   35
   Glucose
   178
   114
   96
   175
   173
   162
   160
   136
   Other labs: PT / PTT / INR:12.8/22.9/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, 4th dose Monday [**5-19**]
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   - switch to pressure support (daily SBT)
   - may consider repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - A-line unsuccessful
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor
   - check CVP and consider diuresis to keep even today.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-20 12:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Awake, appropriate.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 11:33 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-5-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-9**] Minimal
   Pain location: epigastric
   Flowsheet Data as of  [**2104-5-20**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 76 (59 - 93) bpm
   BP: 102/49(61) {94/46(58) - 130/63(86)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.3 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,824 mL
                                                                    600 mL
   PO:
             TF:
                                                                  1,018 mL
                                                                    275 mL
   IVF:
                                                                    547 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    905 mL
   Urine:
                                                                  1,395 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    429 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: ),
   Somewhat improved air movement LLL area
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   527 K/uL
   136 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   140 mEq/L
   30.6 %
   14.2 K/uL
        [image002.jpg]
                             [**2104-5-13**]  10:41 AM
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
   WBC
   9.0
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   Hct
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   Plt
   280
   308
   365
   [**Telephone/Fax (3) 11885**]
   527
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   35
   Glucose
   178
   114
   96
   175
   173
   162
   160
   136
   Other labs: PT / PTT / INR:12.8/22.9/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Continue XRT
   and chemotherapy with hope for reducing mediastinal tumor size,
   allowing reduction of extrinsic airways obstruction and hopefuly work
   towards extubate.  Monitor CXR and repeat CT scan when XRT complete.
   WBC ELEVATION -- attributed to addition of steroids (Decadron).
   Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
 Dilutional, bleed, ACD.  Continue serial Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2104-05-21 12:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Trial of SBT yesterday, complicated by supraventricular tachycardia -->
   required diltiazem x2 iv doses.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 11:33 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2104-5-20**] 07:34 PM
   Diltiazem - [**2104-5-20**] 07:34 PM
   Midazolam (Versed) - [**2104-5-21**] 08:15 AM
   Fentanyl - [**2104-5-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-9**] Minimal
   Pain location: epigastric region
   Flowsheet Data as of  [**2104-5-21**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 89 (69 - 174) bpm
   BP: 102/54(65) {79/39(40) - 161/79(99)} mmHg
   RR: 14 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.3 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                    966 mL
                                                                    163 mL
   PO:
             TF:
                                                                    275 mL
   IVF:
                                                                    431 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    800 mL
   Urine:
                                                                  1,555 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -589 mL
                                                                   -637 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 552 (552 - 552) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 95%
   ABG: ///30/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   433 K/uL
   116 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   103 mEq/L
   138 mEq/L
   27.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2104-5-14**]  04:23 AM
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
   WBC
   9.0
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   10.3
   Hct
   28.5
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   27.7
   Plt
   280
   308
   365
   [**Telephone/Fax (3) 11885**]
   527
   433
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   35
   Glucose
   178
   114
   96
   175
   173
   162
   160
   136
   116
   Other labs: PT / PTT / INR:12.8/24.5/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Continue XRT
   and chemotherapy with hope for reducing mediastinal tumor size,
   allowing reduction of extrinsic airways obstruction and hopefuly work
   towards extubate.  Monitor CXR and repeat CT scan when XRT complete.
   Consider bronchoscopy to assess airway patency.
   WBC ELEVATION -- attributed to addition of steroids (Decadron).
   Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
  ACD. Stable Hct.  Continue serial Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Discussion with patient
s husband, updated medical condition, answered
   all questions.  Plan to continue as outlined.  Hope to work towards
   extubation trial.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-21**] 17:01 ------

2104-05-22 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2104-5-21**] 08:00 PM
   - melanoma on XRT (6th dose) with chemo
   - more pressure support required in the PM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2104-5-19**] 11:33 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-21**] 08:15 AM
   Fentanyl - [**2104-5-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.4
C (101.2
   HR: 102 (84 - 108) bpm
   BP: 114/59(71) {85/43(40) - 130/70(86)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,648 mL
                                                                    524 mL
   PO:
             TF:
                                                                    578 mL
                                                                    405 mL
   IVF:
                                                                    820 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                  1,393 mL
                                                                    318 mL
   Urine:
                                                                  1,393 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 96%
   ABG: ///32/
   Ve: 6.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   440 K/uL
   8.9 g/dL
   133 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   15 mg/dL
   96 mEq/L
   134 mEq/L
   27.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
   WBC
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   10.3
   9.7
   Hct
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   27.7
   27.9
   Plt
   [**Telephone/Fax (3) 11929**]68
   487
   527
   433
   440
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   35
   Glucose
   114
   96
   175
   173
   162
   160
   136
   116
   133
   Other labs: PT / PTT / INR:13.8/26.7/1.2, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, 7th dose today
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - f/u cultures
   - switch to pressure support (daily SBT)
   - may consider repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - A-line unsuccessful
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor edema, I/Os
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-21**] 01:30 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-22 13:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Withdrawn.  Appears dispondent.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-22**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.6
   HR: 97 (83 - 102) bpm
   BP: 101/52(65) {85/43(55) - 130/70(86)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,653 mL
                                                                    858 mL
   PO:
             TF:
                                                                    583 mL
                                                                    636 mL
   IVF:
                                                                    820 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  1,393 mL
                                                                    578 mL
   Urine:
                                                                  1,393 mL
                                                                    578 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 93%
   ABG: ///32/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : scattered, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Somewhat improved air movement in left
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   440 K/uL
   133 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   15 mg/dL
   96 mEq/L
   134 mEq/L
   27.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2104-5-14**]  04:26 PM
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
   WBC
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   10.3
   9.7
   Hct
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   27.7
   27.9
   Plt
   [**Telephone/Fax (3) 11929**]68
   487
   527
   433
   440
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   35
   Glucose
   114
   96
   175
   173
   162
   160
   136
   116
   133
   Other labs: PT / PTT / INR:13.8/26.7/1.2, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Continue XRT
   and chemotherapy with hope for reducing mediastinal tumor size,
   allowing reduction of extrinsic airways obstruction and hopefuly work
   towards extubate.  Monitor CXR and repeat CT scan when XRT complete.
   Consider bronchoscopy to assess airway patency.
   WBC ELEVATION -- attributed to addition of steroids (Decadron).
   Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
  ACD. Stable Hct.  Continue serial Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-22**] 07:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2104-05-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2104-5-22**] 11:00 AM
 BRONCHOSCOPY - At [**2104-5-22**] 02:56 PM
   - Bronch - largely open airways ! Significance? Pending, uncertain.
   - SBT in am
   - Low Urine output, given 500 CC bolus, morning hct dropped 4 pts.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Insulin - Humalog - [**2104-5-22**] 01:00 PM
   Midazolam (Versed) - [**2104-5-22**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 88 (80 - 101) bpm
   BP: 92/54(63) {85/40(50) - 121/64(75)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.9 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,469 mL
                                                                    958 mL
   PO:
             TF:
                                                                  1,133 mL
                                                                    409 mL
   IVF:
                                                                    116 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                    983 mL
                                                                    225 mL
   Urine:
                                                                    983 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    486 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 96 (96 - 96) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 99%
   ABG: ///33/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   7.8 g/dL
   134 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   15 mg/dL
   99 mEq/L
   137 mEq/L
   23.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2104-5-15**]  04:53 AM
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
   WBC
   6.4
   6.2
   15.2
   11.9
   12.1
   14.2
   10.3
   9.7
   6.5
   Hct
   25.7
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   27.7
   27.9
   23.8
   Plt
   [**Telephone/Fax (3) 11929**]68
   487
   527
   433
   440
   311
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   96
   175
   173
   162
   160
   136
   116
   133
   134
   Other labs: PT / PTT / INR:13.6/26.9/1.2, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:7.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, 8th dose today
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation, will try to extubate soon
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - given new infiltrate on CXR, will resent cultures and get diff on cbc
   - switch to pressure support (daily SBT)
   - may consider repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   - gental bolus
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - A-line unsuccessful
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor edema, I/Os
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-23**] 04:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-23 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubatd, mechancally ventilated
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Insulin - Humalog - [**2104-5-22**] 01:00 PM
   Midazolam (Versed) - [**2104-5-22**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-23**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 93 (80 - 101) bpm
   BP: 113/64(76) {85/40(50) - 121/64(76)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.9 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,469 mL
                                                                  1,409 mL
   PO:
             TF:
                                                                  1,133 mL
                                                                    642 mL
   IVF:
                                                                    116 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                    983 mL
                                                                    445 mL
   Urine:
                                                                    983 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    486 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 669 (96 - 669) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 97%
   ABG: ///33/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   311 K/uL
   134 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   15 mg/dL
   99 mEq/L
   137 mEq/L
   23.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2104-5-15**]  02:47 PM
                             [**2104-5-16**]  03:36 AM
                             [**2104-5-17**]  03:41 AM
                             [**2104-5-18**]  03:56 AM
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
   WBC
   6.2
   15.2
   11.9
   12.1
   14.2
   10.3
   9.7
   6.5
   Hct
   26.5
   28.6
   30.3
   28.9
   29.5
   30.6
   27.7
   27.9
   23.8
   23.0
   Plt
   365
   520
   468
   487
   527
   433
   440
   311
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   175
   173
   162
   160
   136
   116
   133
   134
   Other labs: PT / PTT / INR:13.6/26.9/1.2, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:86.6 %, Lymph:7.0 %, Mono:4.6 %,
   Eos:1.5 %, Albumin:2.6 g/dL, LDH:351 IU/L, Ca++:7.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Bronchoscopy yesterday disclosed evidence for
   airway patency in right and left mainstem (improved) -- trachea not
   evaluated.  Continue mechanical ventilation.  Continue XRT and
   chemotherapy with hope for reducing mediastinal tumor size, allowing
   reduction of extrinsic airways obstruction and hopefuly work towards
   extubate.  Monitor CXR and repeat CT scan when XRT complete.
   WBC ELEVATION -- attributed in part to addition of steroids
   (Decadron).  Resolved.  Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 continue antimicrtobial to complete course.
   ANEMIA
  ACD. Falling  Hct (in addition to wBC and plts) --> may be in
   part related to chemotherapy.  Monitor stool guiac.  Continue serial
   Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-23**] 04:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Unscheduled / unplanned extubation.  Pt. able to maintain airway,
   oxygenation and gas exchange.  Plan continue to monitor RR, VS, SaO2,
   provide supplemental oxygen.  If clinical decline, pt. states she would
   desire reintubation.  Plan continue to monitor.  Low threshold for
   reintubation.  Husband informed.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-5-23**] 17:26 ------

2104-05-24 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2104-5-23**] 01:00 PM
 INVASIVE VENTILATION - STOP [**2104-5-23**] 01:01 PM
 INVASIVE VENTILATION - START [**2104-5-23**] 07:25 PM
   - XRT (8th)
   - self extubated in the afternoon
   - did okay for a while on facemask but then became tachypneic and in
   respiratory distress, so was re-intubated (confirmed with patient and
   family that she would want this, even if it was unlikely she'd ever
   successfully come off the vent)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Diltiazem - [**2104-5-23**] 12:29 PM
   Propofol - [**2104-5-23**] 07:20 PM
   Midazolam (Versed) - [**2104-5-24**] 05:27 AM
   Fentanyl - [**2104-5-24**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-24**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.4
   HR: 83 (68 - 137) bpm
   BP: 98/49(60) {88/43(53) - 141/73(90)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,813 mL
                                                                    598 mL
   PO:
             TF:
                                                                    750 mL
                                                                    278 mL
   IVF:
                                                                  1,833 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    270 mL
   Urine:
                                                                  1,305 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,508 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 436 (436 - 669) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI: 82
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/57/146/32/5
   Ve: 7 L/min
   PaO2 / FiO2: 209
   Physical Examination
   General: Intubated, sedated but easily arousable and follows commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse wheezes LEFT > RIGHT, no rales or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   358 K/uL
   8.1 g/dL
   117 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.6 mEq/L
   12 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2104-5-19**]  04:30 AM
                             [**2104-5-20**]  04:15 AM
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
   WBC
   12.1
   14.2
   10.3
   9.7
   6.5
   8.6
   Hct
   29.5
   30.6
   27.7
   27.9
   23.8
   23.0
   28.0
   23.7
   25.4
   Plt
   487
   527
   433
   [**Telephone/Fax (3) 11975**]
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   0.3
   TCO2
   34
   Glucose
   160
   136
   116
   133
   134
   117
   Other labs: PT / PTT / INR:13.4/26.1/1.1, ALT / AST:20/20, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.6 g/dL, LDH:294 IU/L, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, should get 9th dose today (touch base with rad
   onc), consider trach for the patient.
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation, will try to extubate soon
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - given new infiltrate on CXR, will resent cultures and get diff on cbc
   - switch to pressure support (daily SBT)
   - repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - gental bolus
 watch in and out, A Line may be considered.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor edema, I/Os
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-24**] 02:13 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined Mrs [**Known lastname 11723**] and was present for the key portions
   of the services provided in her care.  I have reviewed Dr [**First Name (STitle) 7709**]
s note
   above and largely agree with his findings and plan of care.  I would
   add the following.  The patient has a most impressive chest CT scan,
   with a huge mediastinal mass, biopsy confirmed to be metstatic
   melanoma, compressing the left atrium and pulmonary veins, totally
   occluding her left mainstem, and very severely narrowing all her right
   sided airways as well.  Her exam today is consistent with severe airway
   narrowing and very prolonged expiratory times and loud rhonchi.
   Without very significant improvement in CT/bronch findings with
   completion of XRT, I do not see how she can be reasonably considered a
   candidate for extubation. Given the overall prognosis, our primary goal
   should be to avoid the extreme discomfort of asphyxiation.  For the
   time being I would continue to treat aggressively, even adding abx if
   febrile or leukocytotic.  However if repeat CT or bronch is not much
   better, I would personally advise CMO while still in ICU and on vent
   and initiate terminal wean. Thus right now SBT
s and consideration of
   trache are, for me, are not being considered.  I understand Dr [**Last Name (STitle) **]
   had spoken with family, and I stand ready to do so also over the next
   couple of days.  Right now, fortunately, the patient is quite
   comfortable on the vent.
   45min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2104-5-24**] 03:53 PM ------

2104-05-25 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeat CT today
   - ? BM, increased bowel regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-24**] 10:00 PM
   Fentanyl - [**2104-5-24**] 10:00 PM
   Insulin - Humalog - [**2104-5-25**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 94 (82 - 146) bpm
   BP: 103/51(62) {83/36(48) - 138/69(83)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,957 mL
                                                                    796 mL
   PO:
             TF:
                                                                  1,054 mL
                                                                    510 mL
   IVF:
                                                                    318 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    250 mL
   Urine:
                                                                    960 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                    546 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/50/119/34/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: Intubated, sedated but easily arousable and follows commands
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse wheezes LEFT > RIGHT, no rales or rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   378 K/uL
   8.1 g/dL
   131 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   102 mEq/L
   141 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
   WBC
   10.3
   9.7
   6.5
   8.6
   7.8
   Hct
   27.7
   27.9
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   Plt
   433
   440
   311
   358
   378
   Cr
   0.4
   0.5
   0.5
   0.3
   0.4
   TCO2
   34
   35
   Glucose
   116
   133
   134
   117
   125
   131
   Other labs: PT / PTT / INR:13.8/26.4/1.2, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   yo F h/o metastatic melanoma c/b large mediastinal mass, intubated s/p
   bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses,
   - chemo initiated [**5-16**], last dose 4/11
   - CT today to eval interval change
   - f/u Rad Onc recs
   - continue invasive ventilation
 if no improvement on CT, discuss with
   family/pt terminal extubation
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
 if no improvement on CT, discuss with family/pt terminal
   extubation
   - given new infiltrate on CXR, will resent cultures and get diff on cbc
   - switch to pressure support (daily SBT)
   - repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - gental bolus
 watch in and out, A Line may be considered.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor edema, I/Os
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: peripherals
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-25**] 06:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-25 12:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-5-24**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-24**] 10:00 PM
   Fentanyl - [**2104-5-24**] 10:00 PM
   Insulin - Humalog - [**2104-5-25**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-25**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 94 (82 - 146) bpm
   BP: 103/49(61) {83/36(48) - 138/69(83)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,957 mL
                                                                  1,299 mL
   PO:
             TF:
                                                                  1,054 mL
                                                                    790 mL
   IVF:
                                                                    318 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    505 mL
   Urine:
                                                                    960 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    997 mL
                                                                    794 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/50/119/34/8
   Ve: 6.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   378 K/uL
   8.1 g/dL
   131 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   102 mEq/L
   141 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2104-5-21**]  04:16 AM
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
   WBC
   10.3
   9.7
   6.5
   8.6
   7.8
   Hct
   27.7
   27.9
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   Plt
   433
   440
   311
   358
   378
   Cr
   0.4
   0.5
   0.5
   0.3
   0.4
   TCO2
   34
   35
   Glucose
   116
   133
   134
   117
   125
   131
   Other labs: PT / PTT / INR:13.8/26.4/1.2, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, should get 9th dose today (touch base with rad
   onc), consider trach for the patient.
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - continue invasive ventilation, will try to extubate soon
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  Mass is shown on CT to be obstructing left main and left lower
   lobe bronchi. Also with right lower lobe bronchus obstruction, and left
   lower lobe and partial right lower lobe collapse.  Of note, bilateral
   pleural effusions are also present.  The patient has been febrile
   during admission; sputum cx thus far have grown out Moraxella s/p eight
   day treatment with Levo/Unasyn
   - XRT per above
   - continue vent pending improvement in tumor compression of left main
   bronchus
   - given new infiltrate on CXR, will resent cultures and get diff on cbc
   - switch to pressure support (daily SBT)
   - repeat CT to monitor progress of mediastinal mass.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - unclear if anticoagulation is indicated in this patient given
   expected lifespan, aggregate risk of stroke, and propensity of melanoma
   to bleed
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   - gental bolus
 watch in and out, A Line may be considered.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   #hyperglycemia on decadron
   -continue to monitor
   -last dose of decadron is [**5-18**]
   .
   # Bilateral upper extremity edema - ? SVC syndrome
 the CTA indicates
   patent SVC but clinically she may have it
   - monitor edema, I/Os
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: CVL
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-25**] 06:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined Mrs [**Known lastname 11723**] and I was present for the key
   portion of the services provided.  I have reviewed Dr [**Last Name (STitle) **]
s note
   above and largely agree with his findings and plan of care.  The
   patient had an episode of agitation last night that threatened another
   self extubation. Hence she is more significantly  sedated and
   comfortable on the vent today. Exam still has prolonged exhalation
   phase and diffuse rhonchi.   As per my note yesterday, I believe we
   need to await her 2 remaining XRT treatments and then re image with CT
   (not on PEEP or just a small amount
 such as PSV 5/0).  Repeat bronch
   may also be necessary.  If no major improvement in large airway caliber
   is seen (on no or low level vent support) then CMO strategy would be
   clearly needed.  For now I would keep her relatively heavily sedated
   and minimize interventions for now.
   40min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2104-5-25**] 01:34 PM ------

2104-05-26 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had another episode of 2:1 block. Fell to 3:1 with Dilt 5 x 2 IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-25**] 11:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-26**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 84 (84 - 163) bpm
   BP: 95/46(57) {90/41(52) - 138/75(91)} mmHg
   RR: 6 (6 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,301 mL
                                                                    186 mL
   PO:
             TF:
                                                                  1,347 mL
                                                                     83 mL
   IVF:
                                                                    264 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    215 mL
   Urine:
                                                                    925 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: ///34/
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   385 K/uL
   8.3 g/dL
   141 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.2 mEq/L
   14 mg/dL
   97 mEq/L
   137 mEq/L
   25.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
   WBC
   9.7
   6.5
   8.6
   7.8
   8.7
   Hct
   27.9
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   Plt
   [**Telephone/Fax (3) 11990**]78
   385
   Cr
   0.5
   0.5
   0.3
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   133
   134
   117
   125
   131
   141
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, [**10-17**] doses received thus far
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  The patient had been febrile during admission; sputum cx grew
   out Moraxella, now s/p eight day treatment with Levo/Unasyn
   - XRT/chemo per above
   - failed extubation earlier in hospital course, now re-intubated
   - pressure support (daily SBT) as tolerated
   - repeat CT to monitor progress of mediastinal mass
   - if no successful movement toward extubation, will have to consider
   trach
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - anticoagulation not indicated in this patient given expected
   lifespan, aggregate risk of stroke, and propensity of melanoma to bleed
   (CHADS = 0)
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: CVL
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-26 11:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Metastatic melanoma with mets to lung, tumor compressing LA
   24 Hour Events:
   uneventful except for recurrent aflutter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-26**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 93 (83 - 163) bpm
   BP: 103/82(87) {88/41(52) - 138/82(91)} mmHg
   RR: 14 (6 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,303 mL
                                                                    857 mL
   PO:
             TF:
                                                                  1,349 mL
                                                                    581 mL
   IVF:
                                                                    264 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    350 mL
   Urine:
                                                                    925 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,378 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 99%
   ABG: ///34/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   385 K/uL
   141 mg/dL
   0.4 mg/dL
   34 mEq/L
   3.2 mEq/L
   14 mg/dL
   97 mEq/L
   137 mEq/L
   25.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2104-5-22**]  05:08 AM
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
   WBC
   9.7
   6.5
   8.6
   7.8
   8.7
   Hct
   27.9
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   Plt
   [**Telephone/Fax (3) 11990**]78
   385
   Cr
   0.5
   0.5
   0.3
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   133
   134
   117
   125
   131
   141
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DELIRIUM / CONFUSION
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ATRIAL FLUTTER (AFLUTTER)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 INEFFECTIVE COPING
 KNOWLEDGE DEFICIT
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   On this day I examined Mrs [**Known lastname 11723**] and I was present for the key
   portion of the services provided.  I have reviewed Dr [**Last Name (STitle) **]
s note
   above and largely agree with his findings and plan of care.  The
   patient had an episode of agitation last night that threatened another
   self extubation. Hence she is more significantly  sedated and
   comfortable on the vent today. Exam still has prolonged exhalation
   phase and diffuse rhonchi.   As per my note yesterday, I believe we
   need to await her 2 remaining XRT treatments and then re image with CT
   (not on PEEP or just a small amount
 such as PSV 5/0).  Repeat bronch
   may also be necessary.  If no major improvement in large airway caliber
   is seen (on no or low level vent support) then CMO strategy would be
   clearly needed.  For now I would keep her relatively heavily sedated
   and minimize interventions for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2104-05-27 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - bolused fluids to keep UOP up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-27**] 04:34 AM
   Midazolam (Versed) - [**2104-5-27**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 98 (82 - 102) bpm
   BP: 106/55(66) {89/43(55) - 119/82(87)} mmHg
   RR: 15 (14 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,332 mL
                                                                    349 mL
   PO:
             TF:
                                                                  1,328 mL
                                                                    251 mL
   IVF:
                                                                    824 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    555 mL
   Urine:
                                                                    850 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,482 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 44.1 cmH2O/mL
   SpO2: 98%
   ABG: ///35/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   342 K/uL
   7.1 g/dL
   118 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.0 mEq/L
   15 mg/dL
   101 mEq/L
   140 mEq/L
   22.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
                             [**2104-5-27**]  04:19 AM
   WBC
   6.5
   8.6
   7.8
   8.7
   6.2
   Hct
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   22.0
   Plt
   [**Telephone/Fax (3) 12002**]85
   342
   Cr
   0.5
   0.3
   0.4
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   134
   117
   125
   131
   141
   118
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, [**10-17**] doses received thus far
   - chemo initiated [**5-16**], last dose 4/11
   - f/u Rad Onc recs
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  The patient had been febrile during admission; sputum cx grew
   out Moraxella, now s/p eight day treatment with Levo/Unasyn
   - XRT/chemo per above
   - failed extubation earlier in hospital course, now re-intubated,
   continue at current settings
   - pressure support (daily SBT) as tolerated
   - repeat CT to monitor progress of mediastinal mass
   - if no successful movement toward extubation after completing XRT
   treatments, will have to consider terminal extubation vs. trach with
   d/c to hospice.  Will discuss with family today and consider palliative
   care consult after meeting.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - anticoagulation not indicated in this patient given expected
   lifespan, aggregate risk of stroke, and propensity of melanoma to bleed
   (CHADS = 0)
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: CVL
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-27 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Appears comfortable on ventilator via ETT.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-27**] 08:55 AM
   Fentanyl - [**2104-5-27**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Psychiatric / Sleep: Agitated
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-27**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 88 (82 - 102) bpm
   BP: 105/54(66) {89/43(55) - 119/61(74)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.5 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  2,334 mL
                                                                    742 mL
   PO:
             TF:
                                                                  1,330 mL
                                                                    596 mL
   IVF:
                                                                    824 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    855 mL
   Urine:
                                                                    850 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,484 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 44.1 cmH2O/mL
   SpO2: 98%
   ABG: ///35/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   342 K/uL
   118 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.0 mEq/L
   15 mg/dL
   101 mEq/L
   140 mEq/L
   22.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2104-5-23**]  04:04 AM
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
                             [**2104-5-27**]  04:19 AM
   WBC
   6.5
   8.6
   7.8
   8.7
   6.2
   Hct
   23.8
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   22.0
   Plt
   [**Telephone/Fax (3) 12002**]85
   342
   Cr
   0.5
   0.3
   0.4
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   134
   117
   125
   131
   141
   118
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Bronchoscopy disclosed evidence for airway
   patency in right and left mainstem (improved) -- trachea not evaluated,
   but failed self-extubation trial.  Continue mechanical ventilation.
   Continue XRT to completion (final session #10 tomorrow).  Monitor
   repeat CT scan when XRT complete.  If no significant change in thoracic
   CT and no further treatment planned, will consider extubation (no
   trach) as per discussion with husband.
   WBC ELEVATION -- attributed in part to addition of steroids
   (Decadron).  Resolved.  Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 LLL pneuonian, and now RUL infiltrate.  Continue
   antimicrtobial to complete course.
   ANEMIA
  ACD. Falling  Hct (in addition to wBC and plts) --> may be in
   part related to chemotherapy.  Monitor stool guiac.  Continue serial
   Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-27**] 04:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Discussion with husband, updated medical
   condition, and answered all questions.  Husband states that pt. would
   not want chronic trach.  If no hopes for improvement, then likely will
   proceed with extubation and comfort.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2104-05-28 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 RADIATION THERAPY - At [**2104-5-27**] 09:00 AM
   - 9th dose of XRT today
   - continuing to have transient hypoxic episodes
   - no longer constipated
   - Family meeting today: terminal extubation later this week.
   - talk with [**Last Name (un) 12012**] about dc CT
   - goes into SVT, pushed IV dilt x1.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-28**] 05:14 AM
   Fentanyl - [**2104-5-28**] 05:14 AM
   Diltiazem - [**2104-5-28**] 06:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-5-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 86 (84 - 109) bpm
   BP: 109/50(64) {92/47(57) - 119/66(79)} mmHg
   RR: 14 (13 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,636 mL
                                                                    419 mL
   PO:
             TF:
                                                                  1,332 mL
                                                                    394 mL
   IVF:
                                                                    304 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    680 mL
   Urine:
                                                                  1,725 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -89 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   378 K/uL
   7.1 g/dL
   135 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   16 mg/dL
   99 mEq/L
   138 mEq/L
   22.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
                             [**2104-5-27**]  04:19 AM
                             [**2104-5-28**]  04:22 AM
   WBC
   8.6
   7.8
   8.7
   6.2
   6.3
   Hct
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   22.0
   22.4
   Plt
   358
   378
   385
   342
   378
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   117
   125
   131
   141
   118
   135
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   51 yo F h/o metastatic melanoma c/b large mediastinal mass, intubated
   s/p bronchoscopy on [**5-9**] and transferred to [**Hospital Unit Name 10**] to begin XRT
   .
   # Metastatic melanoma
 Mediastinal mass path positive for melanoma.
   As the mass is causing severe impingement on the patient
s airways, the
   plan is to provide XRT, chemo with the goal of shrinking the tumor
   sufficiently to allow for successful extubation.  Per IP, no plan for
   stent placement.
   - XRT plan for 10 doses, [**10-17**] doses received thus far
   - chemo initiated [**5-16**], last dose 4/11
   - no CT scan
   - f/u Rad Onc recs
   - heme/onc, cutaneous malign team following
   .
   # Respiratory failure
 Likely [**3-11**] mediastinal mass as discussed
   above.  The patient had been febrile during admission; sputum cx grew
   out Moraxella, now s/p eight day treatment with Levo/Unasyn
   - XRT/chemo per above
   - failed extubation earlier in hospital course, now re-intubated,
   continue at current settings
   - pressure support (daily SBT) as tolerated
   - if no successful movement toward extubation after completing XRT
   treatments, will have to consider terminal extubation vs. trach with
   d/c to hospice.  Will discuss with family today and consider palliative
   care consult after meeting.
   .
   # Anemia/HCT drop
 Stable.
   - trend HCT, guaiac stool
   - transfusion goal hct >23
   .
   # atrial flutter
 Likely from pericardial tumor involvement, at this
   time reverted to normal sinus rhythm, however at high risk of
   recurrence.  Ruled out by enzymes.
   - anticoagulation not indicated in this patient given expected
   lifespan, aggregate risk of stroke, and propensity of melanoma to bleed
   (CHADS = 0)
   - rate control with diltiazem , threshold HR 90, change to 15mg PO q6h,
   as she has been hypotensive with higher doses.
   .
   # asthma
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm. Avoiding bronchodilators as they will exacerbate
   atrial flutter.
   .
   # FEN: No IVF, replete electrolytes, TFs
   # Prophylaxis:  Pneumoboots, H2 blocker
   # Access: CVL
   # Communication: Patient
   # Code: Full (discussed with patient), Husband [**Name (NI) **] [**Name (NI) 11723**]
   [**Telephone/Fax (3) 11724**]
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-28**] 06:03 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2104-05-28 12:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Continues to experience episodes of tachycardia, respond to iv
   Diltiazem
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2104-5-28**] 09:15 AM
   Diltiazem - [**2104-5-28**] 09:15 AM
   Midazolam (Versed) - [**2104-5-28**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-28**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 87 (83 - 109) bpm
   BP: 117/50(65) {92/47(57) - 119/66(79)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,636 mL
                                                                    710 mL
   PO:
             TF:
                                                                  1,332 mL
                                                                    547 mL
   IVF:
                                                                    304 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    940 mL
   Urine:
                                                                  1,725 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -89 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: Diminished, No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   378 K/uL
   135 mg/dL
   0.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   16 mg/dL
   99 mEq/L
   138 mEq/L
   22.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2104-5-23**]  07:16 AM
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
                             [**2104-5-27**]  04:19 AM
                             [**2104-5-28**]  04:22 AM
   WBC
   8.6
   7.8
   8.7
   6.2
   6.3
   Hct
   23.0
   28.0
   23.7
   25.4
   25.6
   25.8
   22.0
   22.4
   Plt
   358
   378
   385
   342
   378
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   35
   Glucose
   117
   125
   131
   141
   118
   135
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.7 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Bronchoscopy disclosed evidence for airway
   patency in right and left mainstem (improved) -- trachea not evaluated,
   but failed self-extubation trial.  Continue mechanical ventilation.
   Continue XRT to completion (final session #10 tomorrow).  XRT comlete.
   Await final read on repeat Chest CT today.  If no significant change in
   thoracic CT and no further treatment planned, will consider extubation
   (no trach) as per discussion with husband.
   WBC ELEVATION -- attributed in part to addition of steroids
   (Decadron).  Resolved.  Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 LLL pneuonian, and now RUL infiltrate.  Continue
   antimicrtobial to complete course.
   ANEMIA
  ACD. Falling  Hct (in addition to wBC and plts) --> may be in
   part related to chemotherapy.  Monitor stool guiac.  Continue serial
   Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-28**] 10:46 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2104-05-29 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechancially ventilated.
   No new complaints.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2104-5-29**] 03:19 AM
   Fentanyl - [**2104-5-29**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2104-5-29**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**06**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37
C (98.6
   HR: 79 (75 - 92) bpm
   BP: 87/47(57) {85/46(56) - 113/79(82)} mmHg
   RR: 15 (13 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 60.1 kg
   Height: 60 Inch
             Total In:
                                                                  1,447 mL
                                                                    668 mL
   PO:
             TF:
                                                                  1,183 mL
                                                                    629 mL
   IVF:
                                                                     84 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    655 mL
   Urine:
                                                                  1,725 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -278 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   6.5 g/dL
   318 K/uL
   119 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   15 mg/dL
   99 mEq/L
   138 mEq/L
   20.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2104-5-23**]  02:24 PM
                             [**2104-5-23**]  04:37 PM
                             [**2104-5-23**]  10:35 PM
                             [**2104-5-24**]  04:59 AM
                             [**2104-5-24**]  04:34 PM
                             [**2104-5-25**]  05:00 AM
                             [**2104-5-26**]  04:18 AM
                             [**2104-5-27**]  04:19 AM
                             [**2104-5-28**]  04:22 AM
                             [**2104-5-29**]  04:59 AM
   WBC
   8.6
   7.8
   8.7
   6.2
   6.3
   5.1
   Hct
   28.0
   23.7
   25.4
   25.6
   25.8
   22.0
   22.4
   20.9
   Plt
   358
   378
   385
   342
   378
   318
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   34
   35
   Glucose
   117
   125
   131
   141
   118
   135
   119
   Other labs: PT / PTT / INR:13.0/26.3/1.1, ALT / AST:20/18, Alk Phos / T
   Bili:141/0.2, Differential-Neuts:85.4 %, Lymph:6.3 %, Mono:5.7 %,
   Eos:2.5 %, Albumin:2.7 g/dL, LDH:255 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   51 yof F h/o metastatic melanoma c/b extensive mediastinal mass with
   central airway compression.
   RESPIRATORY FAILURE -- predominately attributed to airway obstruction,
   extrinsic compression.  Continue mechanical ventilation.  Completed XRT
   (#10) XRT.  No significant change in tumor burden.  Awaiting further
   Oncology evaluation, to determine if any additional interventions are
   available for treatment of melanoma.  If no treatment options, will
   consider extubation (no trach) as per discussion with husband.
   WBC ELEVATION -- attributed in part to addition of steroids
   (Decadron).  Resolved.  Monitor.
   METATSTATIC MELENOMA -- Mediastinal mass pathology --> melanoma,
   causing severe extrinsic compression of airways, the plan is to provide
   XRT with the goal of shrinking the tumor sufficiently to allow for
   successful extubation.  Per IP, no plan for stent placement.
   PNEUMONIA
 LLL pneumonia, and now RUL infiltrate.  Continue
   antimicrtobial to complete course.
   ANEMIA
  ACD. Falling  Hct (in addition to wBC and plts) --> may be in
   part related to chemotherapy.  Monitor stool guiac.  Continue serial
   Hct.
   FLUIDS -- monitor CVP.  Monitor I/O.  Plan maintain balance.
   TACHYCARDIA
 attributed to mediastinal involveement by tumor.  Anxiety
   provoked.  Resolved.  Monitor HR.
   A-FLUTTER --  attributed in part to pericardial invovlement by tumor.
   Currently normal sinus rhythm, however at high risk of recurrence.
   Ruled out by enzymes.  Local atrial irritation by tumor may promote
   A-fib despite medications.  Controlled rate on current lower diltiazem
   dose.
   ASTHMA
 Wheezing most likely secondary to tumor airway involvement,
   not bronchospasm.  Prefer to avoid bronchodilators (may exacerbate
   atrial fib).
   HYPERGLYCEMIA
 attributed to decadron.  Monitor, maintian <150.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2104-5-29**] 04:54 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2104-5-15**] 03:05 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill